US07790756B2
2-Chloro-4-fluoro-5-nitrophenol (85 g, 0.45 mol) and 10% Pd/C (25 g, 0.023 mol) were combined in EtOH and hydrogenated (50 psi) for 12 h. The reaction mixture was filtered, concentrated in vacuo and purified by silica gel chromatography to provide 3-amino-4-fluorophenol (40 g 70% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.87 (s, 1H), 6.70 (dd, J=11.2, 8.8 Hz, 1H), 6.14 (dd, J=7.8, 2.4 Hz, 1H), 5.84 (m, 1H), 4.92 (s, 2H); MS (ESI) m/z: 128.2 (M+H+).

reactant | 2-Chloro-4-fluoro-5-nitrophenol | 0.45 mol, 85 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 0.023 mol, 25 g | [Pd] | Pd
product | 3-amino-4-fluorophenol | 40 g, 70% yield | NC=1C=C(C=CC1F)O | C6H6FNO
